US06924278B2
To a solution of ethyl (2E)-3-[(3R)-4-(tert-butoxycarbonyl)morpholin-3-yl]acrylate (1.0 g) in toluene (10 ml) was added diisobutylaluminum hydride (1.02 M in toluene, 7.6 ml) at −78° C.˜−40° C. After stirring for 2 hours at 0° C., the mixture was quenched with methanol (1.2 ml), and stirred for 1 hour at room temperature. After the resulting precipitate was filtered off, the filtrate was evaporated and purified by column chromatography on a silica gel using a mixture of ethyl acetate and hexane (3:7˜4:6) as eluent to give (3R)-4-(tert-butoxycarbonyl)-3-[(E)-3-hydroxy-1-propenyl]morpholine (0.71 g) as a colorless oil.

reactant | ethyl (2E)-3-[(3R)-4-(tert-butoxycarbonyl)morpholin-3-yl]acrylate | 1.0 g | C(C)(C)(C)OC(=O)N1[C@@H](COCC1)/C=C/C(=O)OCC | C14H23NO5
reactant | diisobutylaluminum hydride | 1.02 M, 7.6 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (3R)-4-(tert-butoxycarbonyl)-3-[(E)-3-hydroxy-1-propenyl]morpholine | 0.71 g | C(C)(C)(C)OC(=O)N1[C@@H](COCC1)\C=C\CO | C12H21NO4
